* Eight-bit differential charge DAC candidate; ideal linear capacitors pending PDK sizing.
* Code controls are external full-swing true/complement signals; not a SAR controller.
* Each side totals 256*CU including a one-unit dummy at VLO.
.subckt pt_cdac_scaled_switch A Y G GB VDD VSS params: S=1
XN A G Y VSS nfet_03v3 w=2u l=.28u m={S}
XP A GB Y VDD pfet_03v3 w=4u l=.28u m={S}
.ends
.subckt pt_cdac_scaled_bit TOP VH VL B BB VDD VSS params: CVAL=20f SW=1
XH VH BOT B BB VDD VSS pt_cdac_scaled_switch S={SW}
XL VL BOT BB B VDD VSS pt_cdac_scaled_switch S={SW}
C TOP BOT {CVAL}
.ends
.subckt pt_cdac8_scaled HP HN VH VL B0 B0B B1 B1B B2 B2B B3 B3B B4 B4B B5 B5B B6 B6B B7 B7B VDD VSS params: CU=20f
XP0 HP VH VL B0 B0B VDD VSS pt_cdac_scaled_bit CVAL={CU*1} SW=1
XN0 HN VH VL B0B B0 VDD VSS pt_cdac_scaled_bit CVAL={CU*1} SW=1
XP1 HP VH VL B1 B1B VDD VSS pt_cdac_scaled_bit CVAL={CU*2} SW=2
XN1 HN VH VL B1B B1 VDD VSS pt_cdac_scaled_bit CVAL={CU*2} SW=2
XP2 HP VH VL B2 B2B VDD VSS pt_cdac_scaled_bit CVAL={CU*4} SW=4
XN2 HN VH VL B2B B2 VDD VSS pt_cdac_scaled_bit CVAL={CU*4} SW=4
XP3 HP VH VL B3 B3B VDD VSS pt_cdac_scaled_bit CVAL={CU*8} SW=8
XN3 HN VH VL B3B B3 VDD VSS pt_cdac_scaled_bit CVAL={CU*8} SW=8
XP4 HP VH VL B4 B4B VDD VSS pt_cdac_scaled_bit CVAL={CU*16} SW=16
XN4 HN VH VL B4B B4 VDD VSS pt_cdac_scaled_bit CVAL={CU*16} SW=16
XP5 HP VH VL B5 B5B VDD VSS pt_cdac_scaled_bit CVAL={CU*32} SW=32
XN5 HN VH VL B5B B5 VDD VSS pt_cdac_scaled_bit CVAL={CU*32} SW=32
XP6 HP VH VL B6 B6B VDD VSS pt_cdac_scaled_bit CVAL={CU*64} SW=64
XN6 HN VH VL B6B B6 VDD VSS pt_cdac_scaled_bit CVAL={CU*64} SW=64
XP7 HP VH VL B7 B7B VDD VSS pt_cdac_scaled_bit CVAL={CU*128} SW=128
XN7 HN VH VL B7B B7 VDD VSS pt_cdac_scaled_bit CVAL={CU*128} SW=128
CDP HP VL {CU}
CDN HN VL {CU}
.ends
