* Preliminary true/complement code driver. Asymmetric paths deliberately explicit.
* D remains an externally driven logic command, not a completed SAR controller.
.subckt pt_adc_drive_inv A Y VDD VSS params: S=1
XP Y A VDD VDD pfet_03v3 w=4u l=.28u m={S}
XN Y A VSS VSS nfet_03v3 w=2u l=.28u m={S}
.ends
.subckt pt_adc_code_driver D B BB VDD VSS params: WEIGHT=1
X0 D N0 VDD VSS pt_adc_drive_inv S={WEIGHT}
X1 N0 B VDD VSS pt_adc_drive_inv S={4*WEIGHT}
X2 B BB VDD VSS pt_adc_drive_inv S={4*WEIGHT}
.ends
