* Preliminary two-stage unity feedback amplifier, external bias voltages.
* Negative feedback: OUT drives first-stage positive gain input; second stage inverts.
.subckt pt_sample_driver_headroom IN OUT BN BP VDD VSS params: CC=1p
XIP A OUT T VSS nfet_03v3 w=8u l=.5u m=4
XIN X IN T VSS nfet_03v3 w=8u l=.5u m=4
XT T BN VSS VSS nfet_03v3 w=8u l=.5u m=16
XMP A A VDD VDD pfet_03v3 w=8u l=.5u m=4
XMN X A VDD VDD pfet_03v3 w=8u l=.5u m=4
XOUT OUT X VSS VSS nfet_03v3 w=8u l=.5u m=8
XLOAD OUT BP VDD VDD pfet_03v3 w=8u l=.5u m=64
RC X Z 100
CC Z OUT {CC}
.ends
